US07153878B2
4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid methoxy-methyl-amide (7.56 g, 21.09 mmol) is suspended in anhydrous tetrahydrofuran (100 mL), and cooled to 0° C. with stirring under nitrogen. Methyl magnesium bromide (28 mL, 3.0M in diethyl ether, 84.36 mmol) is slowly added to the reaction over 1 h. The reaction is allowed to warm slowly to room temperature and monitored by TLC. Upon complete consumption of starting material, the reaction is carefully neutralized with 1N hydrochloric acid, extracted with diethyl ether, washed, dried, and concentrated. The 1-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone (5.4 g, 17.23 mmol) 82% yield, is used without further purification.

reactant | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid methoxy-methyl-amide | 21.09 mmol, 7.56 g | CON(C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)C | C16H17F3N2O2S
reactant | Methyl magnesium bromide | 84.36 mmol, 3.0M, 28 mL | C[Mg]Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone | 17.23 mmol, 5.4 g, 82% yield | C(C)(C)C=1N=C(SC1C(C)=O)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NOS
